US04269788
To 50 ml. of methanol, 10 ml. of dimethylamine and 1 g. of molecular sieve 3 A are added dropwise at about -5° C. 10 ml. of 5 N methanolic hydrochloric acid and subsequently at 0° C. a solution of 5.3 g. of (1-phenyl-2,5-cyclohexadien-1-yl)-2-propanone in 20 ml. of methanol. 1.1 g. of sodium cyanoborohydride are then added at 0° C. and the mixture is stirred at room temperature for 4 days. The mixture is worked-up as follows: Ether and ice-water are added to the mixture and the phases are separated. The ether phase is extracted with dilute aqueous hydrochloric acid. The acid extracts are made alkaline with concentrated ammonia and extracted with ether. The combined ether phases are filtered and concentrated. There is obtained crude α,N,N-trimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine which is dissolved in ether, converted with hydrogen chloride into the hydrochloride and recrystallized from methylene chloride/ether. According to melting point and mixed melting point, the thus-obtained product is identical with that obtained in accordance with Example 3.

reactant | dimethylamine | CNC | C2H7N
reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | (1-phenyl-2,5-cyclohexadien-1-yl)-2-propanone | C1(=CC=CC=C1)C1(C=CCC=C1)CC(C)=O | C15H16O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | Ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | α,N,N-trimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine | CC(CC1(C=CCC=C1)C1=CC=CC=C1)N(C)C | C17H23N
